US07858796B2
(260) 5-{3-[(methylamino)methyl]phenyl}-3-(1-{[2-(methyloxy)ethyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
To a solution of 5-(3-formylphenyl)-3-(1-{[2-(methyloxy)ethyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide (25 mg, 0.053 mmol) in MeOH/CH2Cl2 (1 mL/1 mL) was added methyl amine (0.15 mL, 0.33 mmol). The reaction mixture was stirred at room temperature for 2 hours before NaBH4 (13.2 mg, 0.33 mmol) was added. The reaction mixture was stirred at room temperature overnight and evaporated all the solvent. The residue was purified by using a Gilson semi-preparative HPLC system, eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) pumped at 25 mL/min to give the title compound (10.0 mg, 39%).

reactant | 5-(3-formylphenyl)-3-(1-{[2-(methyloxy)ethyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 0.053 mmol, 25 mg | C(=O)C=1C=C(C=CC1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCOC | C24H27N3O5S
reactant | methyl amine | 0.33 mmol, 0.15 mL | CN | CH5N
reactant | NaBH4 | 0.33 mmol, 13.2 mg | [BH4-].[Na+]
solvent | MeOH CH2Cl2 | 1 mL | CO.C(Cl)Cl
product | 5-{3-[(methylamino)methyl]phenyl}-3-(1-{[2-(methyloxy)ethyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 10.0 mg, 39% | CNCC=1C=C(C=CC1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCOC | C25H32N4O4S
